US08304419B2
Step A: methyl 3-chloro-1H-pyrrole-2-carboxylate
5-Methyl-3,4-dihydro-2H-pyrrole (1.00 g, 12.0 mmol) was dissolved in carbon tetrachloride. To the solution was added NCS (12.85 g, 96 mmol) as a solid and reaction mixture heated to 85° C. and stirred overnight. The mixture was cooled to 0° C. and the precipitate filtered off and the solvent evaporated. The residue was dissolved in methanol and sodium methoxide (3.90 g, 72.2 mmol) was added. The resulting suspension was heated to reflux and stirred for 3 h. The methanol was evaporated and the residue suspended in Et2O. The solid was filtered off and the ether evaporated. The residue was dissolved in DCM and 2M HCl was added. The biphasic solution was stirred until no SM remained. The phases were separated and the organic layer was dried over MgSO4 and evaporated to an orange oil. The crude oil was adsorbed onto silica and run on 40 g of silica with EtOAc and Hexanes to afford the title compound as an orange solid (0.2958 g, 1.854 mmol, 15.41% yield). 1H NMR (400 MHz, CDCl3): δ ppm 9.54 (br. s., 1H), 6.80 (s., 1H), 6.17 (s., 1H), 3.83 (s, 3H). MS: m/z 160.0 (M+1).

reactant | 5-Methyl-3,4-dihydro-2H-pyrrole | 12.0 mmol, 1.00 g | CC=1CCCN1 | C5H9N
reactant | NCS | 96 mmol, 12.85 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | sodium methoxide | 72.2 mmol, 3.90 g | C[O-].[Na+]
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 3-chloro-1H-pyrrole-2-carboxylate | 1.854 mmol, 0.2958 g, 15.41% yield | ClC1=C(NC=C1)C(=O)OC | C6H6ClNO2
